US05688789
1-Amino-2-(4-fluorophenyl)-1-phenylethane.
To a solution of 2-(4-fluorophenyl)-1-phenyl-1-ethanone-O-methyl oxime (1.34 g, 4.62 mmol) in 30 ml dry THF under nitrogen was added borane-THF complex (1.0M in THF, 23.1 ml, 23.1 mmol) and dry pyridine (10 ml) by syringe at 25° C. The resulting bi-phasic solution was refluxed with vigorous magnetic stirring for 16 hours. After the reaction was cooled to 25° C. and was quenched with 10% NaOH solution, hexanes (50 ml) were added and the layers were separated. The aqueous portion was extracted with hexanes again (40 ml). The combined organic layers were dried over magnesium sulfate and concentrated in vacuo to yield a cloudy colorless syrup (3.55 g, 66% yield for two steps). Rf : 0.24 (EtOAc).

reactant | 2-(4-fluorophenyl)-1-phenyl-1-ethanone-O-methyl oxime | 4.62 mmol, 1.34 g | CON=C(CC1=CC=C(C=C1)F)C1=CC=CC=C1 | C15H14FNO
reactant | borane THF | 23.1 mmol, 1.0M, 23.1 ml | B.C1CCOC1
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 1-Amino-2-(4-fluorophenyl)-1-phenylethane | 66% yield | NC(CC1=CC=C(C=C1)F)C1=CC=CC=C1 | C14H14FN
